US06150377
1C. 6-(4-Chloro-benzoyl)-4-(3-iodo-phenyl)-1H-quinolin-2-one
[6-Amino-3-(4-chloro-benzoyl)-cyclohexa-2,4-dienyl]-(3-iodo-phenyl)-methan-one (60 g, 130 mMol) was dissolved in anhydrous toluene (450 mL) under an atmosphere of dry N2. To this solution was added 180 mL of triethylamine (NEt3), 50 mL of acetic anhydride (Ac2O) and 1.60 g (13.0 mMol) of 4-dimethylaminopyridine (DMAP). The reaction mixture was then heated to reflux and stirred at this temperature for 20 hours. The reaction mixture was cooled to ambient temperature and the precipitate was collected via suction filtration. The solid was washed with ethyl ether (Et2O) and dried under vacuum to give of the titled compound (63 g) which was used without further purification.

reactant | [6-Amino-3-(4-chloro-benzoyl)-cyclohexa-2,4-dienyl]-(3-iodo-phenyl)-methan-one | 130 mMol, 60 g | NC1C=CC(=CC1C(=O)C1=CC(=CC=C1)I)C(C1=CC=C(C=C1)Cl)=O | C20H15ClINO2
reactant | triethylamine | 180 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 13.0 mMol, 1.60 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-(4-Chloro-benzoyl)-4-(3-iodo-phenyl)-1H-quinolin-2-one | 63 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(NC3=CC2)=O)C2=CC(=CC=C2)I)C=C1 | C22H13ClINO2
